US05627203
8H-Thieno[2,3-d]pyrrolo[1,2-a]pyrrol-8-one
This compound can also be obtained by using N-[3-(pyrrol-1-yl)thiophen-2-ylcarbonyl]morpholine (Preparation 12) and N-[3-(pyrrol-1-yl)thiophen-2-ylcarbonyl]piperidine (Preparation 13) as starting materials.

reactant | N-[3-(pyrrol-1-yl)thiophen-2-ylcarbonyl]morpholine | N1(C=CC=C1)C1=C(SC=C1)C(=O)N1CCOCC1 | C13H14N2O2S
reactant | N-[3-(pyrrol-1-yl)thiophen-2-ylcarbonyl]piperidine | N1(C=CC=C1)C1=C(SC=C1)C(=O)N1CCCCC1 | C14H16N2OS
product | 8H-Thieno[2,3-d]pyrrolo[1,2-a]pyrrol-8-one | S1C=CC2=C1C(C=1N2C=CC1)=O | C9H5NOS
